* TB: 8in4b MAC Linearity — sweep in0 with weight=15, all others off
.lib "sky130_minimal.lib.spice" tt
.include "mac_8in4b.spice"

Vdd vdd 0 dc 1.8
Vss vss 0 dc 0

* Sweep voltage on input 0 (parametric)
.param vin_val = 0.9
Vin0 in0 0 dc {vin_val}
Vin1 in1 0 dc 0
Vin2 in2 0 dc 0
Vin3 in3 0 dc 0
Vin4 in4 0 dc 0
Vin5 in5 0 dc 0
Vin6 in6 0 dc 0
Vin7 in7 0 dc 0

Vphi_e phi_e 0 pulse(0 1.8 220n 2n 2n 100n 500n)
Vphi_eb phi_eb 0 pulse(1.8 0 220n 2n 2n 100n 500n)
Vphi_r phi_r 0 pulse(0 1.8 340n 2n 2n 100n 500n)

Ven0b0  en0b0  0 pulse(0 1.8 10n 2n 2n 190n 500n)
Ven0b0b en0b0b 0 pulse(1.8 0 10n 2n 2n 190n 500n)
Ven0b1  en0b1  0 pulse(0 1.8 10n 2n 2n 190n 500n)
Ven0b1b en0b1b 0 pulse(1.8 0 10n 2n 2n 190n 500n)
Ven0b2  en0b2  0 pulse(0 1.8 10n 2n 2n 190n 500n)
Ven0b2b en0b2b 0 pulse(1.8 0 10n 2n 2n 190n 500n)
Ven0b3  en0b3  0 pulse(0 1.8 10n 2n 2n 190n 500n)
Ven0b3b en0b3b 0 pulse(1.8 0 10n 2n 2n 190n 500n)
Ven1b0  en1b0  0 dc 0
Ven1b0b en1b0b 0 dc 1.8
Ven1b1  en1b1  0 dc 0
Ven1b1b en1b1b 0 dc 1.8
Ven1b2  en1b2  0 dc 0
Ven1b2b en1b2b 0 dc 1.8
Ven1b3  en1b3  0 dc 0
Ven1b3b en1b3b 0 dc 1.8
Ven2b0  en2b0  0 dc 0
Ven2b0b en2b0b 0 dc 1.8
Ven2b1  en2b1  0 dc 0
Ven2b1b en2b1b 0 dc 1.8
Ven2b2  en2b2  0 dc 0
Ven2b2b en2b2b 0 dc 1.8
Ven2b3  en2b3  0 dc 0
Ven2b3b en2b3b 0 dc 1.8
Ven3b0  en3b0  0 dc 0
Ven3b0b en3b0b 0 dc 1.8
Ven3b1  en3b1  0 dc 0
Ven3b1b en3b1b 0 dc 1.8
Ven3b2  en3b2  0 dc 0
Ven3b2b en3b2b 0 dc 1.8
Ven3b3  en3b3  0 dc 0
Ven3b3b en3b3b 0 dc 1.8
Ven4b0  en4b0  0 dc 0
Ven4b0b en4b0b 0 dc 1.8
Ven4b1  en4b1  0 dc 0
Ven4b1b en4b1b 0 dc 1.8
Ven4b2  en4b2  0 dc 0
Ven4b2b en4b2b 0 dc 1.8
Ven4b3  en4b3  0 dc 0
Ven4b3b en4b3b 0 dc 1.8
Ven5b0  en5b0  0 dc 0
Ven5b0b en5b0b 0 dc 1.8
Ven5b1  en5b1  0 dc 0
Ven5b1b en5b1b 0 dc 1.8
Ven5b2  en5b2  0 dc 0
Ven5b2b en5b2b 0 dc 1.8
Ven5b3  en5b3  0 dc 0
Ven5b3b en5b3b 0 dc 1.8
Ven6b0  en6b0  0 dc 0
Ven6b0b en6b0b 0 dc 1.8
Ven6b1  en6b1  0 dc 0
Ven6b1b en6b1b 0 dc 1.8
Ven6b2  en6b2  0 dc 0
Ven6b2b en6b2b 0 dc 1.8
Ven6b3  en6b3  0 dc 0
Ven6b3b en6b3b 0 dc 1.8
Ven7b0  en7b0  0 dc 0
Ven7b0b en7b0b 0 dc 1.8
Ven7b1  en7b1  0 dc 0
Ven7b1b en7b1b 0 dc 1.8
Ven7b2  en7b2  0 dc 0
Ven7b2b en7b2b 0 dc 1.8
Ven7b3  en7b3  0 dc 0
Ven7b3b en7b3b 0 dc 1.8

XMAC
+ bl vss vdd in0 in1 in2 in3 in4 in5 in6
+ in7 phi_e phi_eb phi_r en0b0 en0b0b en0b1 en0b1b en0b2 en0b2b
+ en0b3 en0b3b en1b0 en1b0b en1b1 en1b1b en1b2 en1b2b en1b3 en1b3b
+ en2b0 en2b0b en2b1 en2b1b en2b2 en2b2b en2b3 en2b3b en3b0 en3b0b
+ en3b1 en3b1b en3b2 en3b2b en3b3 en3b3b en4b0 en4b0b en4b1 en4b1b
+ en4b2 en4b2b en4b3 en4b3b en5b0 en5b0b en5b1 en5b1b en5b2 en5b2b
+ en5b3 en5b3b en6b0 en6b0b en6b1 en6b1b en6b2 en6b2b en6b3 en6b3b
+ en7b0 en7b0b en7b1 en7b1b en7b2 en7b2b en7b3 en7b3b
+ mac_8in4b

.control
tran 0.5n 1.5u uic
meas tran vbl FIND v(bl) AT=780n
echo "RESULT: vbl = $&vbl"
quit
.endc
.end
